US05010100
Allyl bromide (27.5 ml, 0.32 mol) was added to a solution of 5-iodovanillin (50.0 g, 0.18 mol) in DMF (200 ml) containing potassium carbonate (48 g, 0.35 mol) at 80° C. The mixture was stirred at this temperature for 1 hour, filtered, and the filtrate was evaporated to a residue, which was purified by HPLC (hexane-ethyl acetate, 4:1, v/v) to give 4-allyloxy-5-iodo-3-methoxybenzaldehyde.

reactant | Allyl bromide | 0.32 mol, 27.5 ml | C(C=C)Br | C3H5Br
reactant | 5-iodovanillin | 0.18 mol, 50.0 g | IC=1C(=C(C=C(C=O)C1)OC)O | C8H7IO3
reactant | potassium carbonate | 0.35 mol, 48 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 4-allyloxy-5-iodo-3-methoxybenzaldehyde | C(C=C)OC1=C(C=C(C=O)C=C1I)OC | C11H11IO3
